US07713994B2
2-Fluoro-4-furan-3-yl-5-methoxymethoxy-benzaldehyde
4-Bromo-2-fluoro-5-methoxymethoxy-benzaldehyde (160 mg, 0.61 mmol) and 3-furanboronic acid (100 mg, 0.90 mmol) and Pd(PPh3)4 (60 mg, 0.052 mmol) and Cs2CO3 (400 mg, 1.23 mmol) were mixed in N,N-dimethylformamide (10 mL) and degassed and then heated at 100° C. for 1 hour. The mixture is allowed to cool to room temperature and an aqueous work up is performed. The residue is purified to afford the desired product (60 mg, 39%).

reactant | 4-Bromo-2-fluoro-5-methoxymethoxy-benzaldehyde | 0.61 mmol, 160 mg | BrC1=CC(=C(C=O)C=C1OCOC)F | C9H8BrFO3
reactant | 3-furanboronic acid | 0.90 mmol, 100 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | Cs2CO3 | 1.23 mmol, 400 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.052 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-4-furan-3-yl-5-methoxymethoxy-benzaldehyde | 60 mg, 39% | FC1=C(C=O)C=C(C(=C1)C1=COC=C1)OCOC | C13H11FO4
